US09056964B2
In a typical laboratory setting, bis(aryloxyalkyl)terephthalates are made by reacting terephthaloyl chloride with the corresponding aryloxyalkanol. For example, the reaction of terephthaloyl chloride with 2-phenoxyethanol in the presence of excess triethylamine and a solvent, followed by an organic workup to remove the ammonium salt, concentration, and recrystallization provides bis(2-phenoxyethyl)-terephthalate (see Scheme 1, compound 2 and Synthetic Examples 1 and 2 in U.S. Pat. Appl. Publ. No. 2009/0087764). Unfortunately, the lab procedure is impractical on a commercial scale because of the cost of terephthaloyl chloride and, among other issues, the need to recover a solvent and dispose of the ammonium salt.

reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 2-phenoxyethanol | O(C1=CC=CC=C1)CCO | C8H10O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | bis(2-phenoxyethyl)-terephthalate | O(C1=CC=CC=C1)CCOC(C1=CC=C(C(=O)OCCOC2=CC=CC=C2)C=C1)=O | C24H22O6
